US06956053B2
Step b. 3-{[3-(Adamantan-1-yloxymethyl)-5-hydroxy-1-o-tolyl-1H-pyrazole-4-carbonyl]-amino}-benzoic acid ethyl ester.
A solution of 5-(adamantan-1-yloxymethyl)-2-o-tolyl-2H-pyrazol-3-ol (160 mg, 0.47 mmol) in anhydrous THF (4 mL) was added to a suspension of sodium hydride (26 mg of 60% dispersion in oil, 0.65 mmol) in THF (2 mL) under a dry argon atmosphere at room temperature. The mixture was stirred for 30 min. and a solution of 3-ethoxycarbonylphenyl isocyanate (99 mg, 0.5 mmol) in THF (1 mL) added. Stirring was continued for 1 h and the mixture partitioned between 5% KHSO4 (40 mL) and EtOAc (40 mL). The organic phase was washed with brine (30 mL), and dried (MgSO4). Filtration and evaporation of the solvent afforded the product as a red solid, (250 mg, 100%).

reactant | 5-(adamantan-1-yloxymethyl)-2-o-tolyl-2H-pyrazol-3-ol | 0.47 mmol, 160 mg | C12(CC3CC(CC(C1)C3)C2)OCC=2C=C(N(N2)C2=C(C=CC=C2)C)O | C21H26N2O2
reactant | sodium hydride | 0.65 mmol, 26 mg | [H-].[Na+]
reactant | 3-ethoxycarbonylphenyl isocyanate | 0.5 mmol, 99 mg | C(C)OC(=O)C=1C=C(C=CC1)N=C=O | C10H9NO3
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-{[3-(Adamantan-1-yloxymethyl)-5-hydroxy-1-o-tolyl-1H-pyrazole-4-carbonyl]-amino}-benzoic acid ethyl ester | 250 mg, 100% | C(C)OC(C1=CC(=CC=C1)NC(=O)C=1C(=NN(C1O)C1=C(C=CC=C1)C)COC12CC3CC(CC(C1)C3)C2)=O | C31H35N3O5
